US07432262B2
1-(but-2-ynyl)-2-chloro-6-(quinolin-2-ylmethyl)-5,6-dihydro-1H-imidazo[4,5-d]-pyridazine-4,7-dione
2.80 g methyl 2-chloro-5-[N′-tert-butoxycarbonyl-N-(quinolin-2-ylmethyl)-hydrazinocarbonyl]-1-(but-2-ynyl)-1H-imidazol-4-carboxylate are dissolved in 50 ml of ethyl acetate. Then 1.5 ml of 4 M hydrochloric acid in dioxane are added, and the solution is stirred for 2 h at 50° C. Then the solution is cooled to ambient temperature, the precipitate formed is separated off, washed with ethyl acetate and diethyl ether and dried in the drying cupboard at 50° C.

reactant | methyl 2-chloro-5-[N′-tert-butoxycarbonyl-N-(quinolin-2-ylmethyl)-hydrazinocarbonyl]-1-(but-2-ynyl)-1H-imidazol-4-carboxylate | 2.80 g | ClC=1N(C(=C(N1)C(=O)OC)C(=O)N(NC(=O)OC(C)(C)C)CC1=NC2=CC=CC=C2C=C1)CC#CC | C25H26ClN5O5
reactant | hydrochloric acid | 4 M, 1.5 ml | Cl | ClH
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1-(but-2-ynyl)-2-chloro-6-(quinolin-2-ylmethyl)-5,6-dihydro-1H-imidazo[4,5-d]-pyridazine-4,7-dione | C(C#CC)N1C(=NC2=C1C(N(NC2=O)CC2=NC1=CC=CC=C1C=C2)=O)Cl | C19H14ClN5O2
